Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F w/ hx of HTN, HLD presenting for syncope. Patient was 
sitting at dinner and suddenly slumped over per friend for about 
5 minutes. Patient denies any prodromal symptoms. No CP/SOB, 
lightheadedness, dizziness. Felt maybe she ate too much. No 
fevers or chills. Denies any pain. No history of seizures. 
Friend reports that patient returned to baseline mental status 
after waking up. No convulsions, incontinence. Interestingly, 
reports similar episodes 3 and ___ years, hospitalized at OSH both 
times, but pt not sure what the diagnosis.
Patient states she had a stroke back in ___. Presented with 
aphasia that resolved. Was started on eliquis and atrovastatin 
then. Saw a PCP for the first time after her stroke, none before 
that. No recent travel or leg swelling. No history of DVT/PE. 
Denies any smoking history.
In the ED, initial vitals: 97.7 92 140/78 18 98RA
- Exam notable for: unremarkable
- Labs notable for: Cr ___ .9), WBC 11.1
- Imaging notable for: CT head unremarkable
- Patient given: 1L NS
- Vitals prior to transfer: 97.8 72 136/68 18 99RA
On arrival to the floor, pt reports no symptoms.
 
Past Medical History:
HTN
HLD
Stroke ___ ___)
 
Social History:
___
Family History:
No arrhythmia, CAD
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals: 97.8 175/99 76 18 99 RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, no 
bruits, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, dried excoriation in LLE
Skin: Without rashes or lesions
Neuro: A&Ox3. Grossly intact.

DISCHARGE PHYSICAL EXAM
========================
97.8 147/76 Sitting 67 18 96 RA 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly; no 
tenderness to palpation or masses appreciated
GU: no foley  
Ext: warm, well perfused; some hyperpigmentation around the 
medial ankle, slightly tender to palpation on anterior shin - 
stable from prior
Neuro: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:45PM BLOOD WBC-11.1* RBC-3.98 Hgb-11.8 Hct-36.4 
MCV-92 MCH-29.6 MCHC-32.4 RDW-13.7 RDWSD-46.5* Plt ___
___ 09:45PM BLOOD Neuts-79.0* Lymphs-12.2* Monos-6.6 
Eos-1.4 Baso-0.6 Im ___ AbsNeut-8.78* AbsLymp-1.35 
AbsMono-0.73 AbsEos-0.16 AbsBaso-0.07
___ 09:45PM BLOOD Glucose-104* UreaN-34* Creat-1.8* Na-141 
K-4.4 Cl-103 HCO3-24 AnGap-18
___ 08:40PM URINE Color-Straw Appear-Clear Sp ___
___ 08:40PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-LG
___ 08:40PM URINE RBC-2 WBC-46* Bacteri-MANY Yeast-NONE 
Epi-1
___ 08:40PM URINE Hours-RANDOM Creat-45 Na-125

OTHER PERTINENT LABS
=====================
___ 06:05AM BLOOD ALT-15 AST-19 AlkPhos-148* TotBili-0.2
___ 06:32AM BLOOD calTIBC-195* VitB12-347 Ferritn-456* 
TRF-150*
___ 06:32AM BLOOD Albumin-3.1* Calcium-8.7 Phos-3.6 Mg-1.8 
Iron-55

MICROBIOLOGY
==============
___ 8:40 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ BCx - NGTD

IMAGING
========
___
CT Head
1. No acute intracranial process on noncontrast head CT.  
Specifically no acute intracranial hemorrhage. 
2. Given the degree of prominent presumed chronic 
microangiopathy, subtle infarct may not be visualized and if 
there is high clinical suspicion, MRI, if  there are no 
contraindications would be more sensitive. 

___ Left lower extremity U/S
IMPRESSION: 
1.  No evidence of deep venous thrombosis in the left lower 
extremity veins.
2.  4.9 x 0.7 x 3.7 cm left ___ cyst.

___ KUB
IMPRESSION: 
Nonobstructive bowel gas pattern.

___ CXR
IMPRESSION: 
Trace bilateral pleural effusions.
 
___ CTA Chest
IMPRESSION: 
1.   No evidence of aortic dissection or pulmonary embolism.
2.  Dilated main pulmonary artery measuring up to 3.2 cm and 
right pulmonary artery measuring up to 3.0 cm, suggestive of 
pulmonary artery hypertension.
3.  Diffuse ground glass pulmonary opacity suggestive of mild 
pulmonary edema with trace left pleural effusion
4.  Incidental findings include: hypodense liver lesions, likely 
hepatic cysts or biliary hamartomas; cholelithiasis; 
diverticulosis; simple right renal cyst, and small hiatal 
hernia.

___ KNEE (2 VIEWS) LEFT
Moderately severe degenerative changes in the left knee with a 
small joint 
effusion. 

DISCHARGE LABS
=================

___ 06:41AM BLOOD WBC-9.0 RBC-3.50* Hgb-10.5* Hct-32.7* 
MCV-93 MCH-30.0 MCHC-32.1 RDW-14.0 RDWSD-47.6* Plt ___
___ 06:41AM BLOOD Plt ___
___ 06:41AM BLOOD Glucose-84 UreaN-29* Creat-1.6* Na-138 
K-3.8 Cl-103 HCO3-21* AnGap-18
___ 06:41AM BLOOD Calcium-8.4 Phos-4.0 Mg-1.___ F with history of stroke in ___, multiple syncopal 
episodes in the past and HTN presenting for syncope.

# Syncope: Most concerning for arrhythmia given clinical story 
of no prodromal symptoms reported, unlikely vasovagal. No 
convulsion, no post ictal state, bowel/urinary incontinence. No 
palpitations. EKG only notable for LAD, first degree AV block. 
No signs of valvular disease on exam, and TTE done ___ 
without significant valvular lesions. CTA Chest ruled out PE and 
aortic dissection. No report of hypoglycemia, nausea, vomiting 
or blood loss. Hemoglobin is slightly down but no obvious signs 
of blood loss that would lead to syncope. No events on 
telemetry. No infectious signs. Was hypertensive, but this is 
not clearly related to syncope.  Currently most suspect 
post-prandial hypotension in the setting of patient with poor PO 
intake and known flow limiting lesions in the brain (per MRA 
Brain ___ that may have caused transient cerebral 
hypoperfusion in the setting of blood flow to the gut in patient 
who is otherwise hypovolemic. During the hospitolization, there 
were no events on tele. She underwent an ECHO that showed mild 
symmetric left ventricular hypertrophy with preserved regional 
and global biventricular systolic function. Small secundum type 
atrial septal defect. No structural cardiac cause of syncope 
identified. ___ and OT consult cleared patient for home and she 
declined ___ or home ___

# ___: Cr 1.8 on admission which did not significantly improve 
during admission. OMR baseline 0.8 but from ___ and no labs 
available from PCP ___ or ___, although BUN/Cr 
ratio is ~ 20 and FeNA < 0.5% which could be consistent with 
pre-renal. If ___, could be from poorly controlled HTN. 
Medications were renally dosed and outpatient nephrology 
follow-up suggested.

# Normocytic, normochromic anemia: patient with Hgb down to ___ 
s/p only one liter of fluid in the ED. Stable. Iron studies 
consistent with AoCD, B12 WNL. Started on MVI with minerals. 
Would trend as outpatient.

# History of B12 deficiency: pt reports previously being on high 
dose B12, although she denies taking the supplement at this 
time. Unclear why should be B12 deficient, though. B12 WNL here.

# HTN: Was normotensive in ED, but hypertensive on arrival to 
SBPs 180s, and throughout her hospital stay. She was started on 
carveildol 6.2.5mg BID.

# HLD: continued atorvastatin.

# hx of CVA: continued apixaban. PCP records state that he 
recommended she stay on apixaban, although the indication is not 
clear. MRA of head in ___ showed 70-90% irregular 
narrowing involving short segment of the right posterior artery 
at the junction of P1/P2 segments. A1 portion of the right 
anterior cerebral artery was attenuated as well.

TRANSITIONAL ISSUES:
=======================
- monitor CBC (anemia) and Cr
- new medications: carvedilol 6.25mg PO BID for HTN and MVI with 
minerals, please check BP outpatient 
- Outpatient ___ for gait and balance training
- recommend having patient seen by Nephrologist for possible ___
- please follow up final ECHO report from ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Apixaban 2.5 mg PO BID 

 
Discharge Medications:
1.  Aquaphor Ointment 1 Appl TP BID  
2.  Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Apixaban 2.5 mg PO BID  
5.  Atorvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope, post-prandial hypotension, knee pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted after an episode of passing out. We 
did an extensive evaluation including blood work, CT scans, EKGs 
and heart tests to try and figure out why this happened again. 
Currently, we believe that you had an episode of low blood 
pressure after not eating well, and then because you ate a lot, 
the blood rushed to your gut, causing a momentary loss of 
consciousness since your brain was not getting enough blood. 
Because you have an area of narrowing in the blood vessels that 
feed your brain, you are susceptible to low blood pressure like 
this. It is therefore very important that you eat regularly and 
stay well hydrated.

You also complained of leg pain during the hospitalization. We 
did x-rays, which showed no evidence of fracture but showed 
moderately severe degenerative changes in the left knee with a 
small joint effusion. 

We recommend that you have outpatient ___ at Dr. ___ 
since you did not want someone to come visit you at home.

Please follow-up with your doctors as below, and take your 
medications as prescribed.

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___